US08404681B2
Trifluoromethanesulfonic anhydride (3.1 mL, 18.4 mmol) was slowly added to a solution of 1,3-dihydroxy-10H-acridin-9-one (4.0 g, 17.6 mmol), and 2,6-lutidine (65 mL) in CH2Cl2 (180 mL) at 0° C. See J. Reisch et al., Liebigs Ann. Chem., pp. 685-689 (1991). The reaction then was allowed to slowly warm to room temperature. After 16 h, the reaction was concentrated, redissolved in EtOAc (250 mL), and washed with 10% citric acid (5×50 mL) water (2×25 mL), and brine (2×25 mL). The organics then were dried (Na2SO4), filtered, and concentrated. The crude material then was purified via Biotage chromatography using 5% EtOAc/hexanes as eluent to yield 1.77 g (28%) of trifluoromethanesulfonic acid 1-hydroxy-9-oxo-9,10-dihydro-acridin-3-yl ester as an orange solid. Rf=0.50 (50% EtOAc/hexanes). 1H NMR (DMSO-d6, 400 MHz) δ: 12.45 (s, 1H), 8.25 (d, 1H), 7.87 (dd, 1H), 7.59 (d, 1H), 7.40 (dd, 1H), 6.99 (s, 1H), 6.67 (s, 1H).

reactant | Trifluoromethanesulfonic anhydride | 18.4 mmol, 3.1 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1,3-dihydroxy-10H-acridin-9-one | 17.6 mmol, 4.0 g | OC1=CC(=CC=2NC3=CC=CC=C3C(C12)=O)O | C13H9NO3
reactant | 2,6-lutidine | 65 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | 180 mL | C(Cl)Cl | CH2Cl2
product | trifluoromethanesulfonic acid 1-hydroxy-9-oxo-9,10-dihydro-acridin-3-yl ester | 1.77 g, 28% | OC1=CC(=CC=2NC3=CC=CC=C3C(C12)=O)OS(=O)(=O)C(F)(F)F | C14H8F3NO5S
